US06872730B2
To a stirring solution of 3-[1,1-bis(methylethyl)-2-methyl-1-silapropoxy]phenol (200 mg,0.75 mmol),2-[6-(methylamino)-2-pyridyl]ethan-1-ol (104 mg, 0.68 mmol), triphenylphosphine (199 mg, 0.75 mmol) and THF (25 ml), was added diethyl azodicarboxylate (0.12 ml, 0.75 mmol) at 0° C. The reaction was stirred overnight under argon. The solvent was removed under vaccum and the crude product was chromatographed over silica gel to yield 76 mg (28%) of [6-(2-{3-[1,1-bis(Methylethyl)-2-methyl-1-silapropoxy]phenoxy}ethyl)(2-pyridyl)]methylamine. NMR 1H Cl3CD δ: 7.39 (m, 1H), 7.07 (t, 1H, J=8.0 Hz), 6.5 (m, 3H), 6.25 (d, 1H, J=8 Hz), 4.27 (t, 2H, J=6.8 Hz), 3.06 (t, 2H, J=6.8 Hz), 2.90 (d, 3H, J=8 Hz), 1.28 (m, 3H), 1.10 (d, 18H, J=7.0 Hz).

reactant | 3-[1,1-bis(methylethyl)-2-methyl-1-silapropoxy]phenol | 0.75 mmol, 200 mg | CC(C)[Si](C(C)C)(OC=1C=C(C=CC1)O)C(C)C | C15H26O2Si
reactant | 2-[6-(methylamino)-2-pyridyl]ethan-1-ol | 0.68 mmol, 104 mg | CNC1=CC=CC(=N1)CCO | C8H12N2O
reactant | triphenylphosphine | 0.75 mmol, 199 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.75 mmol, 0.12 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | [6-(2-{3-[1,1-bis(Methylethyl)-2-methyl-1-silapropoxy]phenoxy}ethyl)(2-pyridyl)]methylamine | 76 mg, 28% | CC(C)[Si](C(C)C)(OC=1C=C(OCCC2=CC=CC(=N2)CN)C=CC1)C(C)C | C23H36N2O2Si
